Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Indinavir / Morphine / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Right hand infection
 
Major Surgical or Invasive Procedure:
___:  
1. Right ___ digit extensor tendon repair extensor
    digitorum communis of the ___ digit.
2. Right ___ digit extensor indices proprius tendon
    tenolysis.
3. Debridement to bone for infection.
4. Arthrotomy to the right ___ digit metacarpophalangeal
    joint with synovectomy.
5. Repair of wound times 2 cm and intermediate repair.

 
History of Present Illness:
___ RHD h/o HIV, ___'s sarcoma currently on
antiretroviral therapy who presents after falling onto the back
of his right hand onto some rocks yesterday. He reports he 
washed
out the wound with hydrogen peroxide and covered it with a band
aid. He noted more pain and erythema today which brought him to
the ED tonight. He denies any fevers/chills. Per report, his 
last
viral load was undetectable and his CD4 count was 508. 

 
Past Medical History:
HIV 1980s, Kaposi sarcoma, Hypercholesterolemia, Hepatitis A,B, 
Fibromyalgia, hpv with h/o atypical squamous epithelium of anus, 
 Shingles, L shoulder and arm pain, ADD, anxiety and depression
PSH: Colostomy ___ secondary to rectal trauma. ___ fusion 
___
 
Social History:
___
Family History:
NC
 
Physical Exam:
NAD. AVSS. 
RUE: Resting volar splint in place to ___ digits; elevated.
Incision intact, decreased erythema and edema over dorsum of 
hand
just proximal to ___ web space. TTP over surrounding area
Improved pain with active/passive digital ROM 
SILT M/R/U distributions. +FDS/FDP/FPL/EPL/EDC/DIO. 
2+ radial pulse. 
<2 sec cap refill all digits. 
 
Brief Hospital Course:
Patient was admitted to  the Hand Surgery service and underwent 
an I&D of his right hand ___ digit with repair of extensor 
tendons to that digit. He tolerated the procedure well. 
Post-operatively, he was treated with broad spectrum empiric IV 
antibiotics pending OR cultures. He continued to show clinical 
improvement in his pain, erythema and swelling. Occupational 
Therapy was consulted to provide an orthoplast splint and work 
on digital ROM exercises. Intra-operative cultures were still 
pending at time of discharge, so he was discharged on a ___ 
course of PO Clindamycin and Augmentin for broad coverage. The 
rest of his hospital course was unremarkable. At time of 
discharge, his pain was well-controlled with PO medication, he 
was tolerated a regular diet and ambulating without difficulty. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 300 mg PO BID 
2. Amlodipine 10 mg PO DAILY 
3. Concerta *NF* (methylphenidate) 18 mg Oral DAILY 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Nevirapine 200 mg PO BID 

 
Discharge Medications:
1. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
2. Abacavir Sulfate 300 mg PO BID 
3. Amlodipine 10 mg PO DAILY 
4. Concerta *NF* (methylphenidate) 18 mg Oral DAILY 
5. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Nevirapine 200 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right hand infection and ___ digit extensor tendon injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Your dressing should be changed daily: apply Xeroform gauze 
and a dry, sterile gauze dressing.
2. You may shower but make sure to pat the wound dry after. DO 
NOT immerse the wound in water, e.g no swimming, pools or hot 
tubs.
3. Avoid any heavy lifting with your affected extremity
4. Take your antibiotic as directed
5. Wear your splint as directed.
 
Followup Instructions:
___